US08871738B2
To a 100 mL three-neck RBF equipped with stir bar and condenser was added Mg (excess), catalytic iodine, THF (20 mL), followed by 4-bromobut-1-ene (4.55 g, 33.7 mmol) in small increments. The mixture was heated to 40° C. for 1 hour. The reaction was cooled to room temperature and the freshly made Grignard reagent was added via syringe into a 250 mL RBF with N-{(E)-[2-bromo-5-(trifluoromethyl)phenyl]methylidene}-2-methylpropane-2-sulfinamide (8.0 g, 22.5 mmol) in THF (100 mL). Upon completion, the reaction was quenched with saturated aqueous NH4Cl and partitioned with ethyl acetate. The organic was dried over sodium sulfate, filtered, concentrated and purified by column chromatography to yield N-{(1S)-1-[2-bromo-5-(trifluoromethyl)phenyl]pent-4-en-1-yl}-2-methylpropane-2-sulfinamide (6.0 g, 14.6 mmol). 1H NMR (500 MHz, CDCl3) δ7.72 (m, 2H), 7.42 (d, J=8.2 Hz, 1H), 5.87 (m, 1H), 5.13 (m, 2H), 5.02 (m, 1H), 2.24 (m, 1H), 2.18 (m, 1H), 2.08 (m, 1H), 1.98 (m, 1H), 1.27 (s, 9H).

reactant | iodine | II | I2
reactant | 4-bromobut-1-ene | 33.7 mmol, 4.55 g | BrCCC=C | C4H7Br
reactant | N-{(E)-[2-bromo-5-(trifluoromethyl)phenyl]methylidene}-2-methylpropane-2-sulfinamide | 22.5 mmol, 8.0 g | BrC1=C(C=C(C=C1)C(F)(F)F)\C=N\S(=O)C(C)(C)C | C12H13BrF3NOS
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-{(1S)-1-[2-bromo-5-(trifluoromethyl)phenyl]pent-4-en-1-yl}-2-methylpropane-2-sulfinamide | 14.6 mmol, 6.0 g | BrC1=C(C=C(C=C1)C(F)(F)F)[C@H](CCC=C)NS(=O)C(C)(C)C | C16H21BrF3NOS
